US04871871
A mixture of 1.95 g (10.1 mmoles) of 1-phenyl-3, 3-diethylurea and 3.24 g, (43.2 mmoles) of pyridine in 100 g of o-xylene was added to a 250 ml round bottom flask fitted with a magnetic stirrer, condenser, and a thermocouple for measuring reaction temperature. A nitrogen atmosphere was maintained over the reaction mixture. The mixture was heated to 114° C. for 60 minutes. A sample was taken from the flask and analyzed by infrared spectroscopy. There was no peak for the NCO band in the spectrum. Another sample was taken and reacted with ethanol. Any phenyl isocyanate that would have been formed would be converted to the carbamate derivative. This sample was then analyzed by high pressure liquid chromatography (HPCL). Only unreacted starting material was observed confirming that no thermal decomposition of the urea to isocyanate occurred.

reactant | 1-phenyl-3, 3-diethylurea | 10.1 mmoles, 1.95 g | C1(=CC=CC=C1)NC(=O)N(CC)CC | C11H16N2O
reactant | pyridine | 43.2 mmoles | N1=CC=CC=C1 | C5H5N
reactant | ethanol | C(C)O | C2H6O
solvent | o-xylene | 100 g | CC=1C=CC=CC1C | C8H10
product | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
